US04209521
3-(4-methoxybenzoyl)-1-(1-[indol-3-ylmethyl]piperid-4-yl)urea
Formaldehyde (0.4 cm3, 40% aqueous solution) was added to a stirred solution of 4-(4-methoxybenzoylureido)piperidine (1.39 g, 0.005 mol) and indole (0.6 g, 0.005 mol) in acetic acid (3 cm3). The solution was allowed to stand for 5 hours and the diluted with water (50 cm3). The turbid solution was then basified by addition of ammonia solution and the precipitated solid collected by filtration washed with water and ether to give 2.1 g (95%) of the title compound as the free base. The base was suspended in warm ethanol (20 cm3) and acidified with ethanolic hydrogen chloride. After stirring at room temperature for 1 hour and 0° C. for 0.5 hours the suspension was filtered to remove the hydrochloride. The hydrochloride was recrystallised from aqueous methanol (80% methanol, 20 cm3) to give (1.8 g, 82%) of the hydrochloride of the title compound m.p. 220°-22° C.

reactant | Formaldehyde | 0.4 cm3 | C=O | CH2O
reactant | 4-(4-methoxybenzoylureido)piperidine | 0.005 mol, 1.39 g | COC1=CC=C(C(=O)NC(NC2CCNCC2)=O)C=C1 | C14H19N3O3
reactant | indole | 0.005 mol, 0.6 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | ammonia | N | H3N
solvent | acetic acid | 3 cm3 | C(C)(=O)O | C2H4O2
solvent | water | 50 cm3 | O | H2O
product | 3-(4-methoxybenzoyl)-1-(1-[indol-3-ylmethyl]piperid-4-yl)urea | 2.1 g, 95% | COC1=CC=C(C(=O)NC(NC2CCN(CC2)CC2=CNC3=CC=CC=C23)=O)C=C1 | C23H26N4O3
